US06001839
In a similar manner to Example 18, 7-cyclopentyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine hemihydrate (2.5 g) was reacted with N-chlorosuccinimide (0.90 g) in dichloromethane (80 ml) to give 6-chloro-7-cyclopentyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine.

reactant | 7-cyclopentyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine hemihydrate | 2.5 g | O.C1(CCCC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2.C2(CCCC2)N2C=C(C1=C2N=CN=C1N)C1=CC=C(C=C1)OC1=CC=CC=C1
reactant | N-chlorosuccinimide | 0.90 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 6-chloro-7-cyclopentyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | ClC1=C(C2=C(N=CN=C2N)N1C1CCCC1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C23H21ClN4O
